US06331538B1
1-Benzyl-6-fluoro-3-hydroxy-7-pyrrolidin-1-yl-1H-pyrido[2,3-d]pyrimidine-2,4-dione
Following the procedure of Example 32, hydrogenation of 1-benzyl-3-benzyloxy-6-fluoro-7-pyrrolidin-1-yl-1H-pyrido[2,3-d]pyrimidine-2,4-dione (Example A-3, 110 mg, 0.247 mmol) and 10% Pd/C (15 mg) in MeOH (2 mL) and ethyl acetate (3 mL) afforded 67 mg, of the title compound as a solid, mp 219-220° C.

reactant | 1-benzyl-3-benzyloxy-6-fluoro-7-pyrrolidin-1-yl-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 0.247 mmol, 110 mg | C(C1=CC=CC=C1)N1C(N(C(C2=C1N=C(C(=C2)F)N2CCCC2)=O)OCC2=CC=CC=C2)=O | C25H23FN4O3
solvent | MeOH | 2 mL | CO | CH4O
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 15 mg | [Pd] | Pd
product | 1-Benzyl-6-fluoro-3-hydroxy-7-pyrrolidin-1-yl-1H-pyrido[2,3-d]pyrimidine-2,4-dione | C(C1=CC=CC=C1)N1C(N(C(C2=C1N=C(C(=C2)F)N2CCCC2)=O)O)=O | C18H17FN4O3
